US06969717B2
4-Chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine (10 g, 32.5 mmol) was dissolved in THF (250 mL) and cooled to −78° C. Sec-Butyllithium ( 54.8 mL, 1.3M/cyclohexane, 71.4 mmol.) was then added dropwise and the solution was stirred for 20 min. A solution of tosylazide (16 g, 81.2 mmol.) in THF (100 mL) was added and the mixture was stirred for 1 h. The reaction mixture was quenched with saturated ammonium chloride (50 mL) and warmed to RT. This mixture was extracted with hexanes (2×200 mL) and the combined organic layers were dried. The organic phase was filtered and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel, 100% hexanes) to afford 5-azido-4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine as a mixture with starting material (10.2 g). This mixture was directly used in next step. B. 5-Azido-4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine (1.6 g, 4.6 mmol) was dissolved in ethyl acetate (100 mL) and Pd/C (10%, 100 mg) was added. This suspension was stirred at RT and under 1 atmosphere. of hydrogen for 18 h. The solid was removed by filtration over Celite® and the solution was evaporated in vacuo. The crude product was purified by flash chromatography (silica gel, 95% hexanes, 5% ethyl acetate) to afford 4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine (730 mg, 43.5%, 2 steps). C. 4-Chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine (10.2 g, 31.5 mmol) was diluted in ethyl acetate (200 mL) and acetic acid (100 mL). Zinc dust (50 g, 0.8 mol.) was added in small portions at RT. After stirring the suspension at RT for 4 h, the mixture was filtered over Celite and the filtrate was slowly neutralized with saturated sodium bicarbonate and extracted with ethyl acetate (2×300 mL). The combined organic layers were dried, filtered and evaporated in vacuo. The crude product was purified by flash chromatography (silica gel, 5% ethyl acetate in hexanes) to afford 1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine (6.38 g).

reactant | 4-Chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine | 32.5 mmol, 10 g | ClC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
reactant | Sec-Butyllithium | 71.4 mmol, 1.3M, 54.8 mL | C(C)(CC)[Li]
reactant | tosylazide | 81.2 mmol, 16 g | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-azido-4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine | N(=[N+]=[N-])C=1C(=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)Cl | C16H24ClN5Si
